resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.996355
R2 0 n2 1.003986
R3 0 n4 0.997826
R4 n1 n3 0.999714
R5 n1 n5 9.643346
R6 n2 n3 1.018269
R7 n2 n6 1.001271
R8 n3 n7 0.999574
R9 n4 n5 1.010915
R10 n4 n6 1.009403
R11 n5 n7 1.005328
R12 n6 n7 1.014199
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
